US06716851B2
4-(3,5-Dimethoxyanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine (40 mg, 0.153 mmol) and 3,5-dimethoxyaniline (35 mg, 0.23 mmol), similar to Example 180 and was isolated as a pale solid (30 mg, 52%). 1H NMR (CDCl3): 9.74 (d, J=1.5 Hz, 1H), 7.78 (m, 1H), 8.72 (d, J=2.4 Hz, 1H), 7.48 (s, 1H), 7.10 (s, 1H), 6.53 (d, J=2.1 Hz, 2H) 6.39 (t, J=2.1 Hz, 1H), 3.83 (s, 6H).

reactant | 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | 0.153 mmol, 40 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CN=C1 | C9H4ClF3N4
reactant | 3,5-dimethoxyaniline | 0.23 mmol, 35 mg | COC=1C=C(N)C=C(C1)OC | C8H11NO2
product | 4-(3,5-Dimethoxyanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | COC=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CN=C2)C=C(C1)OC | C17H14F3N5O2
